US07423158B2
A solution of 0.3 gm (1.22 mmol) of 1-(3-bromo-phenyl)-4-fluorobutan-1-one in THF at 0° C. was treated with 0.055 gm (1.47 mmol) of solid NaBH4, stirred at 0° C. for 0.5 h, allowed to warm to room temperature, stirred for 18 h, quenched with aqueous NH4Cl and poured into EtOAC. The phases were separated. The organic phase was washed sequentially with water and brine, dried over Na2SO4 and concentrated under reduced pressure to give 1-(3-bromophenyl)-4-fluorobutan-1-ol as an oil, 0.29 gm (96% yield) of an oil. This oil was dissolved in CH2Cl2, cooled to 0° C., treated with 0.23 mL (1.75 mmol) of DAST, stirred at 0° C. for 0.5 h, allowed to warm to room temperature, and stirred at room temperature for 18 h, quenched with water and poured into EtOAc. The phases were separated. The organic phase was washed sequentially with water and brine, dried over Na2SO4 and carefully concentrated at reduced pressure. The concentrate was used without further purification in Step e.

reactant | 1-(3-bromo-phenyl)-4-fluorobutan-1-one | 1.22 mmol, 0.3 gm | BrC=1C=C(C=CC1)C(CCCF)=O | C10H10BrFO
reactant | NaBH4 | [BH4-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 1-(3-bromophenyl)-4-fluorobutan-1-ol | BrC=1C=C(C=CC1)C(CCCF)O | C10H12BrFO
